US05166198
c) 9-Benzyloxy-6-phthalimidopurine
Phthaloyl dichloride (13.35 g; 92.2 mmol) was added to a cooled solution of 9-benzyloxyadenine (14.9 g, 61.5 mmol), 4-dimethylaminopyridine (1.5 g, 12.3 mmol) and triethylamine (25.7 ml, 184.4 mmol) in tetrahydrofuran (200 ml). After 1 hour at room temperature the solvent was removed under reduced pressure and the residue partitioned between chloroform (500 ml) and saturated potassium bicarbonate (300 ml). The organic phase was separated, washed with water (200 ml), brine (200 ml), dried (MgSO4) and evaporated to dryness. Column chromatography on silica gel eluting with chloroform-methanol (100:1) afforded the title compound (11.20 g, 49%). IR: υmax (KBr) 3070, 1800, 1740, 1730, 1605, 1585, 1450 and 1410 cm-1 ; 1H NMR δH [(CD3)2SO] 5.70(2H, s, CH2Ph), 7.55(5H, s, CH2Ph), 8.20(4H, s, Ar), 8.95(1H, s, H-2), 9.25(1H, s, H-8). Found: C, 64.71; H, 3.78; N, 18.85%; m/z 371.1025. C20H13N5O3 requires: C, 64.68; H, 3.54; N, 18.86%; m/e 371.1018.

reactant | Phthaloyl dichloride | 92.2 mmol, 13.35 g | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
reactant | 9-benzyloxyadenine | 61.5 mmol, 14.9 g | C(C1=CC=CC=C1)ON1C2=NC=NC(=C2N=C1)N | C12H11N5O
reactant | triethylamine | 184.4 mmol, 25.7 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 12.3 mmol, 1.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 9-Benzyloxy-6-phthalimidopurine | 11.20 g, 49% | C(C1=CC=CC=C1)ON1C2=NC=NC(=C2N=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C20H13N5O3
